US04525356
N-(2-Diethylaminoethyl)-3'-chloro-3-methylflavone-8-carboxamide
To a solution of 3'-chloro-3-methylflavone-8-carboxylic acid chloride (prepared from 1.00 g of 3'-chloro-3-methylflavone-8-carboxylic acid and 0.46 ml of thionyl chloride) in 40 ml of benzene were added 0.33 g of N,N-diethylethylenediamine and the solution was stirred for 80 minutes at room temperature. To the reaction mixture was added aqueous HCl solution and shaken. The water layer was separated and made alkaline with potassium carbonate and extracted with chloroform. The extract was washed with water, dried, and evaporated. The residue was purified by column chromatography (adsorbent: silica gel, eluted with chloroform and chloroform containing 1% of methanol) to give 0.39 g of yellow crystals, which were recrystallized from isopropyl ether as colorless plates, m.p. 116°-117° C.

reactant | 3'-chloro-3-methylflavone-8-carboxylic acid chloride | 0.46 ml, 1.00 g | ClC=1C=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)Cl)C=CC1 | C17H10Cl2O3
reactant | N,N-diethylethylenediamine | 0.33 g | C(C)N(CCN)CC | C6H16N2
reactant | HCl | Cl | ClH
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N-(2-Diethylaminoethyl)-3'-chloro-3-methylflavone-8-carboxamide | 0.39 g | C(C)N(CCNC(=O)C=1C=CC=C2C(C(=C(OC12)C1=CC(=CC=C1)Cl)C)=O)CC | C23H25ClN2O3
